US07994185B2
Step A: 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(2-fluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}phenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate
To a solution of 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-carbamate (1.43 g, 4.09 mmol) in N,N-dimethylacetamide (DMA) (15 mL) was added NBS (0.728 g, 4.09 mmol), and the reaction mixture was stirred for 1 h. 1,1-Dimethylethyl 4-(aminocarbonothioyl)-1-piperidinecarboxylate (0.999 g, 4.09 mmol) was added and the reaction mixture was heated to 80° C. for 25 min. The mixture was cooled, quenched with water (30 mL) and extract with EtOAc (3×). The extract was dried over Na2SO4, filtered and concentrated. The residue was purified using column chromatography (hexane/EtOAc, 0 to 100%) to give 1.34 g of the title compound. MS (ESI): 574.2 [M+1]+.

reactant | 2-propen-1-yl {3-[(2-chloro-4-pyrimidinyl)acetyl]-2-fluorophenyl}-carbamate | 4.09 mmol, 1.43 g | ClC1=NC=CC(=N1)CC(=O)C=1C(=C(C=CC1)NC(OCC=C)=O)F | C16H13ClFN3O3
reactant | NBS | 4.09 mmol, 0.728 g | C1CC(=O)N(C1=O)Br | C4H4BrNO2
reactant | 1,1-Dimethylethyl 4-(aminocarbonothioyl)-1-piperidinecarboxylate | 4.09 mmol, 0.999 g | NC(=S)C1CCN(CC1)C(=O)OC(C)(C)C | C11H20N2O2S
solvent | N,N-dimethylacetamide | 15 mL | CN(C(C)=O)C | C4H9NO
product | 1,1-dimethylethyl 4-[5-(2-chloro-4-pyrimidinyl)-4-(2-fluoro-3-{[(2-propen-1-yloxy)carbonyl]amino}phenyl)-1,3-thiazol-2-yl]-1-piperidinecarboxylate | 1.34 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)C1CCN(CC1)C(=O)OC(C)(C)C)C1=C(C(=CC=C1)NC(=O)OCC=C)F | C27H29ClFN5O4S
